US05077329
Dibenzyl P-(N-Benzyl-N-hydroxyaminomethyl)phosphonate
A mixture of 2.0 g (12.5 mmol) of N-benzylhydroxylamine hydrochloride, 0.75 g (25 mmol) of paraformaldehyde, 1.0 g (12 mmol) of sodium bicarbonate and 40 ml of tetrahydrofuran (THF) is stirred at 59° C. for one hour. To the resultant mixture is then added dropwise over a three-hour period a solution of 3.6 g (13.7 mmol) of dibenzyl phosphite in 40 ml of THF. The reaction mixture is then stirred for 14 hours at 55° C. The reaction mixture is concentrated in vacuo to 20 ml volume and 500 ml of ethyl acetate is added. The organic phase is separated and washed sequentially with a saturated solution of sodium bicarbonate and a saturated solution of sodium chloride. The organic phase is dried over anhydrous magnesium sulfate and the solvent removed in vacuo. The residue is purified by column chromatography (silica gel, 20:1, methylene chloride:ethyl acetate eluent) followed by recrystallization from a mixture of methylene chloride, ethyl acetate and hexane to give 1.95 g (40% yield) of a white solid melting at 62°-64° C.

reactant | N-benzylhydroxylamine hydrochloride | 12.5 mmol, 2.0 g | Cl.C(C1=CC=CC=C1)NO
reactant | paraformaldehyde | 25 mmol, 0.75 g | C=O | CH2O
reactant | sodium bicarbonate | 12 mmol, 1.0 g | C([O-])(O)=O.[Na+]
reactant | dibenzyl phosphite | 13.7 mmol, 3.6 g | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
solvent | THF | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | Dibenzyl P-(N-Benzyl-N-hydroxyaminomethyl)phosphonate | 1.95 g, 40% yield | C(C1=CC=CC=C1)N(O)CP(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O | C22H24NO4P
